US04833136
7-(2-Hydroxyethylamino)-5-methyl-3-(methoxyphenyl)-1H-pyrazolo[4,3-b]pyridine (E8)
The title compound was prepared form ethanolamine and 7-chloro-5-methyl-3-(methoxyphenyl)-1H-pyrazolo[4,3-b]pyridine (D13) in an analogous manner to the preparation of Example 2 giving a pale yellow solid, m.p. 193°-194° C. Ratio of meta and para isomer 1:2

reactant | ethanolamine | C(O)CN | C2H7NO
reactant | 7-chloro-5-methyl-3-(methoxyphenyl)-1H-pyrazolo[4,3-b]pyridine | ClC1=C2C(=NC(=C1)C)C(=NN2)C2=C(C=CC=C2)OC | C14H12ClN3O
product | 7-(2-Hydroxyethylamino)-5-methyl-3-(methoxyphenyl)-1H-pyrazolo[4,3-b]pyridine | OCCNC1=C2C(=NC(=C1)C)C(=NN2)C2=C(C=CC=C2)OC | C16H18N4O2
